US08895547B2
3-(2-Cyclohexylamino-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-5-yl)phenol
Under inert gas, 548 mg of [5-(3-benzyloxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]cyclohexylamine were initially charged in 20 ml of methanol and, with addition of 263 mg of 10% Pd/C, stirred under a hydrogen atmosphere for 3.5 hours. The completeness of the conversion was checked by LCMS, and the reaction was once again admixed with 263 mg of 10% Pd/C and stirred under a hydrogen atmosphere for 2 days. After filtration to remove the solid residues, the filtrate was freed of the solvent under reduced pressure and dried under high vacuum. A portion (105 mg) of the residue thus obtained (468 mg) was purified in a purification laboratory by means of preparative HPLC, and the product-containing fractions were freed of the organic solvent under reduced pressure. The aqueous residue was lyophilized. This gave the product (66 mg) with a molecular weight of 352.4 g/mol (C17H24N2O4S); MS (ESI): m/e=353 (M+H+).

reactant | [5-(3-benzyloxyphenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl]cyclohexylamine | 548 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1S(N=C(OC1(C)C)NC1CCCCC1)(=O)=O | C24H30N2O4S
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd/C | 263 mg | [Pd] | Pd
catalyst | Pd/C | 263 mg | [Pd] | Pd
product | 3-(2-Cyclohexylamino-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-5-yl)phenol | 105 mg | C1(CCCCC1)NC=1OC(C(S(N1)(=O)=O)C=1C=C(C=CC1)O)(C)C | C17H24N2O4S
